US07244729B2
Step 40.5: [6-(4-Aminomethyl-phenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-((R)-1-phenyl-ethyl) -amine
Raney-Nickel (0.1 g) catalyzed hydrogenation of 0.206 g (0.6 mmol) 4-[4-((R)-1-phenyl-ethylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-benzonitrile in a mixture of 5% ammonia in methanol (20 ml) and THF (4 ml) for 6 h at atmospheric pressure followed by filtration and evaporation of the solvent gives the title compound; m.p. 253-256° C.; MS-ES+: (M+H)+=344.

reactant | 4-[4-((R)-1-phenyl-ethylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-benzonitrile | 0.6 mmol, 0.206 g | C1(=CC=CC=C1)[C@@H](C)NC=1C2=C(N=CN1)NC(=C2)C2=CC=C(C#N)C=C2 | C21H17N5
solvent | ammonia | N | H3N
solvent | methanol | 20 ml | CO | CH4O
solvent | THF | 4 ml | C1CCOC1 | C4H8O
catalyst | Raney-Nickel | 0.1 g | [Ni] | Ni
product | [6-(4-Aminomethyl-phenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-((R)-1-phenyl-ethyl) -amine | NCC1=CC=C(C=C1)C1=CC2=C(N=CN=C2N[C@H](C)C2=CC=CC=C2)N1 | C21H21N5
